
subckt cell (BitLine SourceLine WordLine NBulkLine)
parameters RMEM

rMemristor (BitLine n1) resistor r=RMEM
xM n1 WordLine SourceLine NBulkLine mc_nmos_lvt w=PWmin l=PLmin

ends cell